US05602075
13. Preparation of N-(2-Fluoro-6-methoxycarbonylphenyl)-5,8-dibromo[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide
A solution of 0.75 g (20 mmol) of 5,8-dibromo-2-chlorosulfonyl[1,2,4]triazolo[1,5-a]pyrazine in 8 mL of dry acetonitrile was placed in a flask equipped with a drying tube and was treated sequentially with 6.0 mL (6.0 mmol) of a 1M solution of N-trimethylsilyl-2-fluoro-6-methoxycarbonylaniline in acetonitrile and 25 μL (0.35 mmol) of dimethyl sulfoxide at room temperature with stirring. The reaction became progressively darker and after 1 hour, the volatiles were removed by evaporation under reduced pressure and the residue was dissolved in dichloromethane. The resulting solution was washed with water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The residue was purified by flash column chromatography on silica gel using a 0.5 to 4 percent ethanol/dichloromethane gradient as eluent to obtain 715 mg (70 percent of theory) of the desired product as an orange glassy solid melting at 190°-195° C.; Mass Spectrum, m/e 510 (M+1).

reactant | 5,8-dibromo-2-chlorosulfonyl[1,2,4]triazolo[1,5-a]pyrazine | 20 mmol, 0.75 g | BrC1=CN=C(C=2N1N=C(N2)S(=O)(=O)Cl)Br | C5HBr2ClN4O2S
reactant | N-trimethylsilyl-2-fluoro-6-methoxycarbonylaniline | C[Si](NC1=C(C=CC=C1C(=O)OC)F)(C)C | C11H16FNO2Si
reactant | dimethyl sulfoxide | 0.35 mmol, 25 μL | CS(=O)C | C2H6OS
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | N-(2-Fluoro-6-methoxycarbonylphenyl)-5,8-dibromo[1,2,4]triazolo[1,5-a]pyrazine-2-sulfonamide | FC1=C(C(=CC=C1)C(=O)OC)NS(=O)(=O)C1=NN2C(C(=NC=C2Br)Br)=N1 | C13H8Br2FN5O4S
